US05338853
Method B--Preparation of 1-[N-(2,2,6,6-tetramethyl-4-piperidinyl)oxamoyl]-2-[2-(3-hydroxy-4-benzoylphenoxy)ethoxycarbonyl]hydrazine
Into a 100 ml 3-neck flask was added 6.4 grams (0.027 mole) of 2-(3-hydroxy-4-benzoylphenoxy)ethyl carbazate from (A), 8.1 grams (0.027 mole) of a 60% solution of ethyl N-(2,2,6,6-tetramethyl-4-piperidinyl)oxamate and 25 ml of methanol. The flask was equipped with a magnetic stirrer, thermometer and a Dean Stark trap with a reflux condenser. The reaction was heated in an oil bath and the methanol was slowly distilled off through the Dean Stark trap. After the methanol stopped coming over, the reaction was heated one hour, a vacuum was applied to the system to remove any residual methanol and the reaction was heated for another 11/2 hours at 70° C. The reaction was dissolved in 50 ml of hot methanol. The solution was filtered to remove a small amount of insoluble material. The methanol was stripped from the filtrate on a rotating evaporator, leaving 9.4 grams of a yellow crystalline solid. Liquid chromatography indicated the product was about 85-90% pure.

reactant | 2-(3-hydroxy-4-benzoylphenoxy)ethyl carbazate | 0.027 mole, 6.4 grams | C(NN)(=O)OCCOC1=CC(=C(C=C1)C(C1=CC=CC=C1)=O)O | C16H16N2O5
reactant | ethyl N-(2,2,6,6-tetramethyl-4-piperidinyl)oxamate | CC1(NC(CC(C1)NC(C(=O)OCC)=O)(C)C)C | C13H24N2O3
solvent | methanol | 25 ml | CO | CH4O
product | 1-[N-(2,2,6,6-tetramethyl-4-piperidinyl)oxamoyl]-2-[2-(3-hydroxy-4-benzoylphenoxy)ethoxycarbonyl]hydrazine | 9.4 grams | CC1(NC(CC(C1)NC(C(=O)NNC(=O)OCCOC1=CC(=C(C=C1)C(C1=CC=CC=C1)=O)O)=O)(C)C)C | C27H34N4O7
